US07166633B2
Step D: Benzyl (2S)-1-{(2S)-2-[(1S)-1-(ethoxycarbonyl)-butylamino]-propionyl}-2,3,4,5,6,7hexahydro-1H-indole-2-carboxylate
Introduce 200 g of the compound obtained in the previous Step, 46 g of triethylamine and 1 litre of ethyl acetate into a reactor, followed by, after stirring for 10 minutes at ambient temperature, 104 g of N-[(S)-ethoxycarbonyl-1-butyl]-(S)-alanine, 30 g of 1-hydroxybenzotriazole and 100 g of dicylohexylcarbodiimide. The heterogeneous mixture is then heated at 30° C. for 3 hours, whilst stirring well, and it is then cooled to 0° C. and filtered. The filtrate is then washed and then evaporated to dryness to yield the expected product in a yield of 95%.

reactant | triethylamine | 46 g | C(C)N(CC)CC | C6H15N
reactant | N-[(S)-ethoxycarbonyl-1-butyl]-(S)-alanine | 104 g | CCC[C@@H](C(=O)OCC)N[C@@H](C)C(=O)O | C10H19NO4
reactant | 1-hydroxybenzotriazole | 30 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicylohexylcarbodiimide | 100 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | ethyl acetate | 1 litre | C(C)(=O)OCC | C4H8O2
product | Benzyl (2S)-1-{(2S)-2-[(1S)-1-(ethoxycarbonyl)-butylamino]-propionyl}-2,3,4,5,6,7hexahydro-1H-indole-2-carboxylate | yield of 95% | C(C)OC(=O)[C@H](CCC)N[C@H](C(=O)N1[C@@H](CC=2CCCCC12)C(=O)OCC1=CC=CC=C1)C | C26H36N2O5
